US05864039
4-Amino-N-(1-(5-aminopentyl)piperidin-4-ylmethyl)-5-chloro-2-methoxybenzamide (2 g) as starting compound and 4-methylbenzaldehyde (0.69 g) were reacted and treated in the same manner as in Example 121 to give 2.5 g of 4-amino-5-chloro-2-methoxy-N-((1-(5-(4-methylbenzylamino)pentyl)piperidin-4-yl)methyl)benzamide.

reactant | 4-Amino-N-(1-(5-aminopentyl)piperidin-4-ylmethyl)-5-chloro-2-methoxybenzamide | 2 g | NC1=CC(=C(C(=O)NCC2CCN(CC2)CCCCCN)C=C1Cl)OC | C19H31ClN4O2
reactant | 4-methylbenzaldehyde | 0.69 g | CC1=CC=C(C=O)C=C1 | C8H8O
product | 4-amino-5-chloro-2-methoxy-N-((1-(5-(4-methylbenzylamino)pentyl)piperidin-4-yl)methyl)benzamide | 2.5 g | NC1=CC(=C(C(=O)NCC2CCN(CC2)CCCCCNCC2=CC=C(C=C2)C)C=C1Cl)OC | C27H39ClN4O2
